US07858632B2
Sodium hydride (0.122 g, 5.0 mmol, 60% w/w) was washed with dry hexanes and evaporated under a stream of nitrogen. 10 mL THF was added and the mixture was cooled to 0° C. (5-Bromo-2-isopropyl-4-methoxy-phenoxy)-acetonitrile (0.577 g, 2.03 mmol) was added in portions. After 30 min ethyl formate (4.9 mL, 60.9 mmol) was added and the solution was warmed to 80° C. After 4.5 hours the mixture was cooled and 5.0 mL iodomethane was added in one portion. After 16 hours the solution was quenched with H2O, concentrated in vacuo, extracted with ethyl acetate, washed with H2O and then washed with brine. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (9:1 hexane/ethyl acetate) afforded 2-(5-bromo-2-isopropyl-4-methoxy-phenoxy)-3-methoxy-acrylonitrile (0.319 g, 48%) as a white solid.

reactant | Sodium hydride | 5.0 mmol, 0.122 g | [H-].[Na+]
reactant | (5-Bromo-2-isopropyl-4-methoxy-phenoxy)-acetonitrile | 2.03 mmol, 0.577 g | BrC=1C(=CC(=C(OCC#N)C1)C(C)C)OC | C12H14BrNO2
reactant | ethyl formate | 60.9 mmol, 4.9 mL | C(=O)OCC | C3H6O2
reactant | iodomethane | 5.0 mL | IC | CH3I
product | 2-(5-bromo-2-isopropyl-4-methoxy-phenoxy)-3-methoxy-acrylonitrile | 0.319 g, 48% | BrC=1C(=CC(=C(OC(C#N)=COC)C1)C(C)C)OC | C14H16BrNO3
